data/polar.json
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:5](=[O+:15][CH3:13])[c:18]1[cH:10][cH:8][cH:6][cH:9][cH:11]1.[cH:1]1[c:14]2[cH:12][cH:4][cH:2][cH:7][c:17]2[cH-:3][cH:16]1>>[CH:1]1=[CH:16][CH:3]([CH:5]([O:15][CH3:13])[c:18]2[cH:10][cH:8][cH:6][cH:9][cH:11]2)[c:17]2[cH:7][cH:2][cH:4][cH:12][c:14]21", "epd": [["LP-/Sigma+", [3], [3, 5]], ["Pi-/LP+", [5, 15], [15]]]}
{"reaction_name": "Michael addition", "rsmi": "[O:4]=[N+:30]([O-:13])[c:20]1[cH:6][cH:8][c:15]([CH:23]=[CH:18][N+:19]([O-:29])=[O:32])[cH:9][cH:7]1.[cH:1]1[cH:10][c:26]([CH:3]=[C:33]2[CH:27]=[CH:16][C:24](=[N+:25]([O-:21])[O-:22])[CH:17]=[CH:28]2)[cH:11][cH:2][c:12]1[N+:31](=[O:5])[O-:14]>>[cH:1]1[cH:10][c:26]([CH:3]([CH:23]([c:15]2[cH:8][cH:6][c:20]([N+:30](=[O:4])[O-:13])[cH:7][cH:9]2)[CH:18]=[N+:19]([O-:29])[O-:32])[c:33]2[cH:27][cH:16][c:24]([N+:25](=[O:21])[O-:22])[cH:17][cH:28]2)[cH:11][cH:2][c:12]1[N+:31](=[O:5])[O-:14]", "epd": [["LP-/Pi+", [21], [25, 21]], ["Pi-/Pi+", [24, 25], [16, 24]], ["Pi-/Pi+", [27, 16], [33, 27]], ["Pi-/Sigma+", [3, 33], [3, 23]], ["Pi-/Pi+", [23, 18], [18, 19]], ["Pi-/LP+", [19, 32], [32]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]([CH:10]1[N+:15](=[CH:6][CH:32]=[CH:11][c:23]2[cH:7][cH:16][cH:5][cH:17][cH:8]2)[CH:14]([CH2:33][c:29]2[cH:34][cH:12][cH:18][cH:13][cH:35]2)[C:20](=[O:9])[N:30]1[CH3:19])([CH3:24])([CH3:25])[CH3:26].[n:2]1([CH3:31])[c:3]([CH3:27])[cH:21][cH:22][c:4]1[CH3:28]>>[C:1]([CH:10]1[N:15]([CH:6]=[CH:32][CH:11]([CH:21]2[C:3]([CH3:27])=[N+:2]([CH3:31])[C:4]([CH3:28])=[CH:22]2)[c:23]2[cH:7][cH:16][cH:5][cH:17][cH:8]2)[CH:14]([CH2:33][c:29]2[cH:34][cH:12][cH:18][cH:13][cH:35]2)[C:20](=[O:9])[N:30]1[CH3:19])([CH3:24])([CH3:25])[CH3:26]", "epd": [["LP-/Pi+", [2], [3, 2]], ["Pi-/Sigma+", [21, 3], [21, 11]], ["Pi-/Pi+", [11, 32], [32, 6]], ["Pi-/LP+", [6, 15], [15]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:1]1([C:6](=[O:21])[O:35][CH3:11])[CH2:12][CH2:24][CH2:22][N:28]1[C:23]1=[CH:15][CH2:5][CH2:25][CH2:18][CH2:7]1.[O:2]=[S:8](=[O:3])([C:10]([F:31])([F:32])[F:33])[c:27]1[cH:19][c:9]2[n+:13]([O-:4])[o:30][n:16][c:34]2[c:26]([N+:17]([O-:14])=[O:20])[cH:29]1>>[CH:1]1([C:6](=[O:21])[O:35][CH3:11])[CH2:12][CH2:24][CH2:22][N+:28]1=[C:23]1[CH2:7][CH2:18][CH2:25][CH2:5][CH:15]1[CH:19]1[c:9]2[n+:13]([O-:4])[o:30][n:16][c:34]2[C:26](=[N+:17]([O-:14])[O-:20])[CH:29]=[C:27]1[S:8](=[O:2])(=[O:3])[C:10]([F:31])([F:32])[F:33]", "epd": [["LP-/Pi+", [28], [23, 28]], ["Pi-/Sigma+", [15, 23], [15, 19]], ["Pi-/Pi+", [19, 27], [27, 29]], ["Pi-/Pi+", [29, 26], [26, 17]], ["Pi-/LP+", [17, 20], [20]]]}
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:5]1([Cl:21])=[C:6]([Cl:22])[C:9](=[O:11])[C:14]([C:26]#[N:29])=[C:15]([C:27]#[N:30])[C:8]1=[O:10].[cH:1]1[c:23]([CH:12]=[C:16]2[S:4][c:19]3[cH:17][cH:7][cH:13][cH:3][c:18]3[N:31]2[CH3:20])[cH:2][cH:25][cH:28][cH:24]1>>[cH:1]1[c:23]([CH:12]([C:14]2([C:26]#[N:29])[C:9](=[O:11])[C:6]([Cl:22])=[C:5]([Cl:21])[C:8]([O-:10])=[C:15]2[C:27]#[N:30])[c:16]2[s:4][c:19]3[cH:17][cH:7][cH:13][cH:3][c:18]3[n+:31]2[CH3:20])[cH:2][cH:25][cH:28][cH:24]1", "epd": [["LP-/Pi+", [31], [16, 31]], ["Pi-/Sigma+", [12, 16], [12, 14]], ["Pi-/Pi+", [14, 15], [15, 8]], ["Pi-/LP+", [8, 10], [10]]]}
{"reaction_name": "Oxaspiropentane rearrangement", "rsmi": "[CH2:1]1[CH2:2][C:5]12[O:3][CH2:4]2>>[CH2:1]1[CH2:2][CH2:4][C:5]1=[O:3]", "epd": [["Sigma-/Sigma+", [2, 5], [2, 4]], ["Sigma-/Pi+", [3, 4], [3, 5]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[NH:1]1[CH:2]([C:24](=[O:6])[O-:22])[CH2:7][CH2:23][CH2:3]1.[S:4]([c:9]1[cH:18][cH:13][cH:11][cH:16][cH:21]1)([C:17]([S:5]([c:10]1[cH:19][cH:14][cH:12][cH:15][cH:20]1)(=[O:25])=[O:26])=[CH2:8])(=[O:27])=[O:28]>>[NH+:1]1([CH2:8][C-:17]([S:4]([c:9]2[cH:18][cH:13][cH:11][cH:16][cH:21]2)(=[O:27])=[O:28])[S:5]([c:10]2[cH:19][cH:14][cH:12][cH:15][cH:20]2)(=[O:25])=[O:26])[CH:2]([C:24](=[O:6])[O-:22])[CH2:7][CH2:23][CH2:3]1", "epd": [["LP-/Sigma+", [1], [1, 8]], ["Pi-/LP+", [8, 17], [17]]]}
{"reaction_name": "Thiourea formation", "rsmi": "[CH3:1][N:2]=[C:4]=[S:3].[NH2:5][H:6]>>[CH3:1][N:2]([C:4](=[S:3])[NH2:5])[H:6]", "epd": [["LP-/Sigma+", [5], [4, 5]], ["Pi-/LP+", [2, 4], [2]], ["LP-/Sigma+", [2], [2, 6]], ["Sigma-/LP+", [5, 6], [5]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH3:1][CH2:7][O:6][C:20]([CH:2]=[C:8]([CH3:23])[N:29]=[N:14][C:5](=[O:15])[NH:19][c:24]1[cH:26][cH:10][cH:25][cH:11][cH:27]1)=[O:16].[CH3:3][C:9](=[C:4]=[N-:12])[c:13]1[cH:17][cH:21][cH:28][cH:22][cH:18]1>>[CH3:1][CH2:7][O:6][C:20]([CH:2]([C:8]([CH3:23])=[N:29][N:14]=[C:5]([O-:15])[NH:19][c:24]1[cH:26][cH:10][cH:25][cH:11][cH:27]1)[C:9]([CH3:3])([C:4]#[N:12])[c:13]1[cH:17][cH:21][cH:28][cH:22][cH:18]1)=[O:16]", "epd": [["LP-/Pi+", [12], [4, 12]], ["Pi-/Sigma+", [9, 4], [9, 2]], ["Pi-/Pi+", [2, 8], [8, 29]], ["Pi-/Pi+", [29, 14], [14, 5]], ["Pi-/LP+", [5, 15], [15]]]}
